US06586633B1
Production of 3-Bromo-5-fluorobenzoic Acid
Magnesium turnings (1.97 g) and iodine (catalytic amount) were added to ether (150 ml), and 1,3-dibromo-5-fluorobenzene (19.6 g) in ether (20 ml) was added dropwise under nitrogen atmosphere at such a rate that gentle reflux occurred. The mixture was refluxed for 3 hours, and left to cool. Crushed dry ice was added thereto, and the mixture was stirred for 1 hour. The reaction mixture was poured into water, and acidified with hydrochloric acid. The mixture was extracted with ether (200 ml), and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform→chloroform:methanol=100:1), to thereby yield 9.37 g of the target compound (yield: 55.4%).

reactant | Magnesium | 1.97 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,3-dibromo-5-fluorobenzene | 19.6 g | BrC1=CC(=CC(=C1)F)Br | C6H3Br2F
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-Bromo-5-fluorobenzoic Acid | yield 9.37 g, yield: 55.4% | BrC=1C=C(C(=O)O)C=C(C1)F | C7H4BrFO2
